US06184244B2
N-[(1-methyl-3-isobutyl-indole-2-carbonyl)cyclohexylalaninyl]-3-amino -5-(2,6-dichlorobenzoyl)oxy-4-oxo-pentanoic acid
Treatment of N-[(1-methyl-3-isobutyl-indole-2-carbonyl)cyclohexylalaninyl]-3-amino-5-(2,6-dichlorobenzoyl)oxy-4-oxo-pentanoic acid, tert-butyl ester with TFA as described in Example 80 gave the titled product (54.2 mg) as a white powder. MS C35H41Cl2N3O7, [M+H]+ =686, [M−H]−=684. TLC (CH2Cl2/MeOH, 90/10): Rf=0.30.

reactant | N-[(1-methyl-3-isobutyl-indole-2-carbonyl)cyclohexylalaninyl]-3-amino-5-(2,6-dichlorobenzoyl)oxy-4-oxo-pentanoic acid, tert-butyl ester | CN1C(=C(C2=CC=CC=C12)CC(C)C)C(=O)N([C@@H](C)C(=O)NC(CC(=O)OC(C)(C)C)C(COC(C1=C(C=CC=C1Cl)Cl)=O)=O)C1CCCCC1 | C39H49Cl2N3O7
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[(1-methyl-3-isobutyl-indole-2-carbonyl)cyclohexylalaninyl]-3-amino -5-(2,6-dichlorobenzoyl)oxy-4-oxo-pentanoic acid | 54.2 mg | CN1C(=C(C2=CC=CC=C12)CC(C)C)C(=O)N([C@@H](C)C(=O)NC(CC(=O)O)C(COC(C1=C(C=CC=C1Cl)Cl)=O)=O)C1CCCCC1 | C35H41Cl2N3O7
